US09334278B2
To a mixture of the crude 2-bromo-3-methyl-5H-pyrrolo[2,3-b]pyrazine (3.83 g, 18 mmol) prepared above and N, N-dimethylformamide (25 mL), under an atmosphere of argon and cooled in an ice bath, was added 95% sodium hydride oil dispersion (0.912 g, 36 mmol) (gas evolution). The mixture was stirred for 15 minutes, and then (2-chloromethoxy-ethyl)-trimethylsilane (3.61 g, 22 mmol) in N, N-dimethylformamide (3 mL) was added dropwise. After 10 minutes, the cooling bath was removed and the mixture stirred for another 3½ hours at room temperature. The mixture was cooled in an ice bath, quenched by the addition of water, and then poured into water and extracted three times with ether. The combined ether extracts were washed twice with water, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. Purification by chromatography (silica, 15% ethyl acetate in hexanes) gave 2-bromo-3-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine (3.47 g, 56%) as an amber solid. 1H NMR (400 MHz, DMSO-d6) δ ppm −0.11 (s, 9H), 0.82 (m, 2H), 2.67 (s, 3H), 3.51 (m, 2H), 5.59 (s, 2H), 6.67 (d, J=3.5 Hz, 1H), 8.01 (d, J=3.5 Hz, 1H).

reactant | 2-bromo-3-methyl-5H-pyrrolo[2,3-b]pyrazine | 18 mmol, 3.83 g | BrC=1N=C2C(=NC1C)NC=C2 | C7H6BrN3
reactant | sodium hydride oil dispersion | 36 mmol, 0.912 g | [H-].[Na+]
reactant | (2-chloromethoxy-ethyl)-trimethylsilane | 22 mmol, 3.61 g | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | N, N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | N, N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 2-bromo-3-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine | 3.47 g, 56% | BrC=1N=C2C(=NC1C)N(C=C2)COCC[Si](C)(C)C | C13H20BrN3OSi
